US08877461B2
BL21 Star™ (DE3) E. coli cells (Invitrogen) were co-transformed with the plasmids pACYCDuet-4506 and Ct94-pETDuet and transformed cells were selected on carbenicillin (50 μg/ml) chloramphenicol (34 μg/ml) LB-agarose plates. Single colonies were used to inoculate 5 mL LB medium with 50 μg/ml carbenicilin and 34 μg/ml chloramphenicol. The culture was incubated overnight at 37° C. The next day 2 mL of TB medium supplemented with the same antibiotics were inoculated with 0.2 mL of the overnight culture. After 6 hours incubation at 37° C., the culture was cooled down to 28° C. and 1 mM IPTG, 2 mg/mL mevalonate (prepared by dissolving mevalonolactone (Sigma) in 0.5N NaOH at a concentration of 1 g/mL and incubating the solution for 30 minutes at 37° C.) and 0.2 mL decane were added to each tube. The cultures were incubated for 48 hours at 28° C. The cultures were then extracted twice with 2 volumes of ethyl acetate, the organic phase was concentrated to 500 μL and analyzed by GC-MS as described above in Example 3. In these conditions sesquiterpene production above 200 mg/L was routinely achieved. Beta-santalene was produced.

reactant | chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
reactant | IPTG | 1 mM | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | mevalonate | C(C[C@@](O)(C)CCO)(=O)[O-]
reactant | mevalonolactone | CC1(CCOC(=O)C1)O | C6H10O3
reactant | decane | 0.2 mL | CCCCCCCCCC | C10H22
solvent | NaOH | 0.5N | [OH-].[Na+]
product | Beta-santalene | CC(=CCC[C@@]1([C@H]2CC[C@H](C2)C1=C)C)C | C15H24
